US07855193B2
Tert-butyl 3-(6-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (Step 1 in Scheme 8)
A solution of 1,2,3,4-tetrahydroisoquinolin-6-ol hydrobromide (345 mg, 1.5 mmol), tert-butyl acrylate (0.44 ml, 3.0 mmol) and N-ethyl-N-isopropylpropan-2-amine (2.6 ml, 15.0 mmol) in MeOH was irradiated in the microwave at 90° C. for 1800 s. Removal of the solvents gave the residue which was purified on ISCO column (2% to 5% MeOH/CH2Cl2) to provide the title compounds (332 mg, 80%). 1H NMR (400 MHz, CD3OD) δ 6.85 (d, 1H), 6.55 (dd, 1H), 6.54 (s, 1H), 3.55 (s, 2H), 2.83 (m, 4H), 2.76 (m, 2H), 2.54 (dd, 2H), 1.45 (s, 9H). MS (ESI) m/z: Calculated: 277.17; Observed: 277.90 (M++1).

reactant | 1,2,3,4-tetrahydroisoquinolin-6-ol hydrobromide | 1.5 mmol, 345 mg | Br.C1NCCC2=CC(=CC=C12)O
reactant | tert-butyl acrylate | 3.0 mmol, 0.44 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 15.0 mmol, 2.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
product | Tert-butyl 3-(6-hydroxy-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 332 mg, 80% | OC=1C=C2CCN(CC2=CC1)CCC(=O)OC(C)(C)C | C16H23NO3
